US09085555B2
(1-Carbamoyl-2-methyl-1H-indol-3-yl)-acetic acid ethyl ester
The title compound was prepared in a similar manner as described in Scheme A8 Step A starting from (2-methyl-1H-indol-3-yl)-acetic acid ethyl ester [21909-49-9] (1.20 g, 5.52 mmol), NaH (60% in mineral oil, 331 mg, 8.28 mmol) and chlorosulfonylisocyanate (0.959 mL, 11.1 mmol). Purification by flash column chromatography on silica gel (EtOAc/c-hexane 1:4 to 1:1) afforded a yellowish solid. TLC, Rf (EtOAc/c-hexane 1:1)=0.31; MS: 261 [M+H]+; tR (HPLC conditions b) 3.54 min.

reactant | (2-methyl-1H-indol-3-yl)-acetic acid ethyl ester | 5.52 mmol, 1.20 g | C(C)OC(CC1=C(NC2=CC=CC=C12)C)=O | C13H15NO2
reactant | NaH | 8.28 mmol, 331 mg | [H-].[Na+]
reactant | chlorosulfonylisocyanate | 11.1 mmol, 0.959 mL | ClS(=O)(=O)N=C=O | CClNO3S
product | (1-Carbamoyl-2-methyl-1H-indol-3-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(N(C2=CC=CC=C12)C(N)=O)C)=O | C14H16N2O3
